US07951810B2
Step a: (2R,3S,5R)-2-({[tert-butyl(dimethyl)silyl]oxy}methyl)-5-[6-(phenylethynyl)-9H-purin-9-yl]tetrahydrofuran-3-yl acetate
To a solution of (2R,3S,5R)-5-(6-bromo-9H-purin-9-yl)-2-({[tert-butyl(dimethyl)silyl]oxy}methyl)tetrahydrofuran-3-yl acetate (1.26 g, 2.67 mmol), CuI (0.102 g, 0.534 mmol), and Pd(PPh3)2Cl2 (0.187 g, 0.267 mmol) in DMF was added DIPEA (0.930 mL, 5.34 mmol) and phenylacetylene (1.17 mL, 10.69 mmol). The mixture was stirred at 75° C. for 1 hour then concentrated. The residue was dissolved in CH2Cl2 (70 mL) and washed with saturated aq EDTA.Na2 (3×50 mL). The combined organics were dried (Na2SO4) and concentrated. The dark crude oil was purified by flash chromatography (40% EtOAc/hexanes) to afford the title compound (1.2 g, 91%).

reactant | (2R,3S,5R)-5-(6-bromo-9H-purin-9-yl)-2-({[tert-butyl(dimethyl)silyl]oxy}methyl)tetrahydrofuran-3-yl acetate | 2.67 mmol, 1.26 g | C(C)(=O)O[C@@H]1[C@H](O[C@H](C1)N1C2=NC=NC(=C2N=C1)Br)CO[Si](C)(C)C(C)(C)C | C18H27BrN4O4Si
reactant | DIPEA | 5.34 mmol, 0.930 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | phenylacetylene | 10.69 mmol, 1.17 mL | C1(=CC=CC=C1)C#C | C8H6
solvent | DMF | CN(C)C=O | C3H7NO
catalyst | CuI | 0.534 mmol, 0.102 g | [Cu]I
catalyst | Pd(PPh3)2Cl2 | 0.267 mmol, 0.187 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | (2R,3S,5R)-2-({[tert-butyl(dimethyl)silyl]oxy}methyl)-5-[6-(phenylethynyl)-9H-purin-9-yl]tetrahydrofuran-3-yl acetate | 1.2 g, 91% | C(C)(=O)O[C@@H]1[C@H](O[C@H](C1)N1C2=NC=NC(=C2N=C1)C#CC1=CC=CC=C1)CO[Si](C)(C)C(C)(C)C | C26H32N4O4Si
